US07915404B2
3-(4-Fluoro-phenyl)-2-isopropyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
A mixture of 3-(4-fluoro-phenyl)-2-isopropyl-7,8-dihydro-2H-1,2,6-triaza-azulene-6-carboxylic acid benzyl ester (0.2 g, 0.49 mmol) and 10% Pd/C (20 mg) in isopropanol (20 mL) was subjected to H2 (45 psi) at rt for 16 h. The mixture was filtered and the filtrate was concentrated. The residue was purified by FCC to give the title compound.

reactant | 3-(4-fluoro-phenyl)-2-isopropyl-7,8-dihydro-2H-1,2,6-triaza-azulene-6-carboxylic acid benzyl ester | 0.49 mmol, 0.2 g | C(C1=CC=CC=C1)OC(=O)N1C=CC2=C(N(N=C2CC1)C(C)C)C1=CC=C(C=C1)F | C24H24FN3O2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 3-(4-Fluoro-phenyl)-2-isopropyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | FC1=CC=C(C=C1)C=1N(N=C2CCNCCC12)C(C)C | C16H20FN3
